US05665718
A suspension of 19 g (54.7 mmol) of (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide in a mixture of 100 ml of dioxan and 15 ml of pyridine was treated with 15 ml of trifluoroacetic anhydride at 7° to 10°. The suspension was stirred at room temperature for 1 hour and poured into 600 ml of water. After 1 hour the suspension was suction filtered. There were obtained 13.1 g (72%) of (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile of m.p. 133°-136°.

reactant | (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 54.7 mmol, 19 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N)CC1)=O | C14H11BrN4O2
reactant | trifluoroacetic anhydride | 15 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 600 ml | O | H2O
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 13.1 g, 72% | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CC1)=O | C14H9BrN4O
